US06635652B1
3,3-Dibenzyl-8-isopropoxyimidazo[1,2-a]-pyridin-2(3H)-one (Compound 1)
Metallic sodium (81 mg) is added to 3.0 ml of absolute ethanol and is stirred for one hour at room temperature. Then, the reaction mixture was added with 586 mg (1.77 mmol) of 2-amino-3-isopropoxy-1-(ethoxy-carbonylmethyl) pyridiniumbromide and stirred at room temperature for one hour. Then, the reaction mixture was added with 605 mg (3.54 mmol) of benzylbromide at 0° C. and stirred at room temperature for 4 hours. Then, the resulting precipitates were filtrated out and dried. The obtained crystals were re-crystallized from ethanol to obtain 588 mg (yield: 92%) of the titled compound.

reactant | sodium | 81 mg | [Na] | Na
reactant | 2-amino-3-isopropoxy-1-(ethoxy-carbonylmethyl) pyridiniumbromide | 1.77 mmol, 586 mg | [Br-].NC1=[N+](C=CC=C1OC(C)C)CC(=O)OCC
reactant | benzylbromide | 3.54 mmol, 605 mg | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ethanol | 3.0 ml | C(C)O | C2H6O
product | 3,3-Dibenzyl-8-isopropoxyimidazo[1,2-a]-pyridin-2(3H)-one | 588 mg, yield: 92% | C(C1=CC=CC=C1)C1(C(N=C2N1C=CC=C2OC(C)C)=O)CC2=CC=CC=C2 | C24H24N2O2
